US07129232B2
To a solution of benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate (810 mg) in N,N-dimethylformamide (2.4 ml) was added N-(trimethylsilyl)acetamide (656 mg), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added a solution of 4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methyl-5-triphenylmethylaminopyrazole (640 mg) in methylene chloride (10 ml). The whole mixture was stirred at room temperature for 26 hours. To the resulting reaction mixture were added ethyl acetate (50 ml) and water (50 ml). The aqueous layer was separated, and the organic layer was washed with 10% aqueous sodium trifluoroacetate solution and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to about 5 ml in vacuo. The concentrate was poured into diisopropyl ether (80 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the resulting solid in methylene chloride (2.38 ml) were added anisole (0.79 ml) and trifluoroacetic acid (1.58 ml). The resulting solution was stirred at room temperature for 4 hours and poured into diisopropyl ether (80 ml). The resulting precipitate was collected by filtration and dried in vacuo to give a crude product (635 mg), which was purified by preparative HPLC utilizing ODS column. The eluate containing a desired product was concentrated to about 30 ml in vacuo. The concentrate was adjusted to about pH 3 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 30% aqueous 2-propanol. The eluate was concentrated to about 30 ml in vacuo and lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[3-(2-aminoethyl)ureido]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate (54 mg) as an amorphous solid.

reactant | benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 810 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C33H35IN6O7S2
reactant | N-(trimethylsilyl)acetamide | 656 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | 4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methyl-5-triphenylmethylaminopyrazole | 640 mg | C(C)(C)(C)OC(=O)NCCNC(NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C31H36N6O3
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2.4 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[3-(2-aminoethyl)ureido]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate | 54 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)NC(=O)NCCN)N)C)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C23H30N12O8S2
